* Z:\mnt\design.r\spice\examples\1935.asc
V1 IN 0 3.3
R1 OUT N004 33.1K
R2 N004 0 10K
L1 IN N001 4.2µ Rser=0.182
D1 N001 OUT 1N5817
C1 OUT 0 20µ
XU1 N001 0 N004 N003 IN LT1935
R3 N003 N002 10K
C3 N003 0 .22µ
V2 N002 0 PWL(0 0 1m 3)
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m
.lib LT1935.sub
.backanno
.end
